US07176216B2
tert-Butyl N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate
To a solution of tert-butyl N-[7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate (300 mg) dissolved in 1,2-dimethoxyethane (10 mL) and water (5 mL) was added 2,6-dimethoxy-4-methoxymethylphenylboric acid (323 mg), tetrakis(triphenylphosphine)palladium(0) (146 mg) and barium hydroxide octahydrate (398 mg), and the reaction mixture was heated and stirred for 2 hours at 80° C. under a nitrogen stream. Water was added to the obtained reaction mixture, the reaction mixture was extracted with ethyl acetate, and the organic extract was washed with brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography and the title compound (245 mg) was obtained as a light yellow amorphous solid from the n-hexane:ethyl acetate (1:1) fraction.

reactant | tert-butyl N-[7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 300 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)COC | C14H18BrN3O3
reactant | water | 5 mL | O | H2O
reactant | 2,6-dimethoxy-4-methoxymethylphenylboric acid | 323 mg | COC1=C(C(=CC(=C1)COC)OC)OB(O)O | C10H15BO6
reactant | barium hydroxide octahydrate | 398 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 146 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 245 mg | COC1=C(C(=CC(=C1)COC)OC)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)COC | C24H31N3O6
